US05112998
To a mixture of 49.0 mg (0.1 mmole) of 20-(5,5-di-methyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate, 0.24 ml (3 mmoles) of pyridine, 0.5 mg (0.004 mmole) of 4-(dimethylamino)pyridine and 10 ml of methylene chloride was added 0.10 ml (1.3 mmoles) of methanesulfonyl chloride dropwise at a temperature of 0° C. and the mixture was stirred at room temperature for 12 hours. The reaction mixture was diluted with 20 ml of methylene chloride, then washed successively with cold 1N-hydrochloric acid, water, aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. Finally the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:10, v/v) to give 25.5 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate (yield: 54%). The 1H-NMR spectrum of this product was in agreement with that of the 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate obtained in Example 17.

reactant | 20-(5,5-di-methyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 0.1 mmole, 49.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
reactant | pyridine | 3 mmoles, 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.3 mmoles, 0.10 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | 4-(dimethylamino)pyridine | 0.004 mmole, 0.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-yl acetate | 25.5 mg, yield: 54% | C(C)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C | C29H42O5
